Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1](=[C:2][C:7]([H:8])([H:9])[O:10][H:11])([H:5])[H:6].[C:3]#[C:4]>>[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-6.08325084852
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])([C:9])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])[H:12],3.54659593698
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])[H:10],1.78335895643
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:4][H:5],3.009683685
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:13]([H:14])([H:15])[H:16],6.167287001209999
[H:1][C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.37740166078
[H:1].[O:2]=[C:3]=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-2.9765248579500003
[C:3][H:4].[O:1]=[C:2]>>[O:1][C:2]#[C:3][H:4],-4.77617658659
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:3],5.10326482949
[C:1]#[C:2][C:3][C:7]([H:8])[H:9].[C:4]([H:5])([H:6])[H:10]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-1.92830995209
[H:1][O:2]/[C:3]([H:4])=[C:5]1\[C:6][C:7]([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:5](=[C:6])[C:9]([C:7][H:8])([H:10])[H:11],4.76754393878
[H:1][C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4],4.45030857356
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[H:9].[H:5],3.85842484526
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-4.703126885630001
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],1.4904674997299998
[C:2]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:5][H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-7.428025339289999
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9].[O:10][H:11],6.7059971238100005
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.94537864362
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.27107058642
[H:1][C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:5]=[C:6]([H:7])[H:8]>>[H:1][C:2][C@@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.89417604404
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3],7.37460326745
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3],4.14473405695
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],1.88304505025
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[H:1][C:2]=[C:3]([H:4])/[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10](/[H:11])[O:13][H:14],1.67072963011
[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.61777759624
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],4.04087519147
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],3.96826069942
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:1]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[C:2]([H:3])([H:4])=[C:5],-1.54703246055
